US04957928
140 mg of palladium-on-carbon (5%) are added to a solution of 3.4 g (13 mmol) of 3-ethoxycarbonylmethyl-2,2-dimethyl-6-fluoro-2H-chromene in 30 ml of absolute ethanol and the mixture is hydrogenated at normal pressure and room temperature for 90 minutes. The catalyst is then filtered off and the filtrate is concentrated by evaporation in vacuo, yielding 3.47 g of 3-ethoxycarbonylmethyl-2,2-dimethyl-6-fluoro-chroman in the form of a light-yellow oil.

reactant | 3-ethoxycarbonylmethyl-2,2-dimethyl-6-fluoro-2H-chromene | 13 mmol, 3.4 g | C(C)OC(=O)CC=1C(OC2=CC=C(C=C2C1)F)(C)C | C15H17FO3
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 140 mg | [Pd] | Pd
product | 3-ethoxycarbonylmethyl-2,2-dimethyl-6-fluoro-chroman | 3.47 g | C(C)OC(=O)CC1C(OC2=CC=C(C=C2C1)F)(C)C | C15H19FO3
